US04380656
Twenty grams (0.106 mol) (5-benzyl-3-furyl)carbinol was charged to a stirred glass reactor with 39 g (0.212 mol) dimethyl 2-vinylcyclopropane-1,1-dicarboxylate, 0.5 g hydroquinone, 0.5 g calcium acetate and 0.38 g dibutyltin diacetate and heated. After the temperature reached about 165° C., methanol began to distill from the reaction mixture and was collected by means of a suitable condenser-trap arrangement. When the transalcoholysis was essentially complete (3.2 g methanol collected; reaction temperature 182° C.) heating was terminated. Excess dimethyl 2-vinylcyclopropane-1,1-dicarboxylate was removed by distillation and the resulting crude light brown oil worked up to recover 12.6 g (35% yield) methyl (5-benzyl-3-furyl)methyl 2-vinylcyclopropane-1,1-dicarboxylate. B.p. 160°-162° C. at 0.018 mm Hg; nD21 1.5335. Infrared and nuclear magnetic resonance spectra were consistent with the desired structure.

reactant | (5-benzyl-3-furyl)carbinol | 0.106 mol, Twenty grams | C(C1=CC=CC=C1)C1=CC(=CO1)CO | C12H12O2
reactant | dimethyl 2-vinylcyclopropane-1,1-dicarboxylate | 0.212 mol, 39 g | C(=C)C1C(C1)(C(=O)OC)C(=O)OC | C9H12O4
reactant | hydroquinone | 0.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
catalyst | calcium acetate | 0.5 g | C(C)(=O)[O-].[Ca+2].C(C)(=O)[O-]
catalyst | dibutyltin diacetate | 0.38 g | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | methanol | CO | CH4O
product | methyl (5-benzyl-3-furyl)methyl 2-vinylcyclopropane-1,1-dicarboxylate | 12.6 g, 35% yield | C(=C)C1C(C1)(C(=O)OC)C(=O)OCC1=COC(=C1)CC1=CC=CC=C1 | C20H20O5
